US05468898
A solution of 21.1 g (84 mmol) of 3-carbomethoxy-4-(3-methoxyphenyl)-3-butenoic acid in 100 ml of acetic acid with 2.11 g of 10% Pd on carbon is shaken under H2 atmosphere until H2 uptake ceases (approximately 4 hours). This is filtered through celite and the filtrate concentrated in vacuo several times from toluene to afford 17.6 g of 3-carbomethoxy-4-(3-methoxyphenyl)butanoic acid in the form of a yellow oil which is used directly in the next step.

reactant | 3-carbomethoxy-4-(3-methoxyphenyl)-3-butenoic acid | 84 mmol, 21.1 g | C(=O)(OC)C(CC(=O)O)=CC1=CC(=CC=C1)OC | C13H14O5
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | Pd on carbon | 2.11 g | [Pd] | Pd
product | 3-carbomethoxy-4-(3-methoxyphenyl)butanoic acid | 17.6 g | C(=O)(OC)C(CC(=O)O)CC1=CC(=CC=C1)OC | C13H16O5
